US04698348
Using the method of Example 1, 4-chloro-3-nitroquinoline was reacted with 4-aminophenylacetic acid in N,N-dimethylformamide in the presence of triethylamine to provide N-(3-nitro-4-quinolinyl)-4-aminophenylacetic acid. This acid was reduced using the method of Example 26 to provide N-(3-amino-4-quinolinyl)-4-aminophenylacetic acid. This diamine was then reacted with formic acid using the method of Example 137 to provide 1-(4-carboxymethylphenyl)-1H-imidazo[4,5-c]quinoline. Recrystallization from methanol provided solid of m.p. 236°-240° C. Analysis: Calculated for C18H13N3O2 : %C, 71.3; %H, 4.3; %N, 13.9; Found; %C, 70.8; %H, 4.3; %N, 13.7.

reactant | 4-chloro-3-nitroquinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 4-aminophenylacetic acid | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(3-nitro-4-quinolinyl)-4-aminophenylacetic acid | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NC1=CC=C(C=C1)CC(=O)O | C17H13N3O4
